US08247396B2
The protocol was established using works by: D. Planchenault et al. Tetrahedron 1995, 51, 5823-5830. A solution of CH3ONa (30% by weight) in CH3OH (8.04 ml; 42.2 mmol) is added to a solution of 7-bromo-2-methyl-8-hydroxyquinoline (1.00 g; 4.22 mmol) in DMF (60 ml). The mixture is stirred for 10 minutes under argon. CuCl2.2H2O (0.22 g; 1.27 mmol) is added and the reaction mixture is heated under reflux for 30 hours. After cooling, water (50 ml) and disodium EDTA dihydrate (10 g; 27 mmol) are added and the medium is stirred for 1 hour. The solution is lightly acidified with acetic acid (3 ml, pH=4-5) and subsequently rebasified gently with a saturated aqueous solution of NaHCO3 (3 ml). The aqueous phase is extracted with CH2Cl2 (3×100 ml). The combined organic phases are dried over anhydrous Na2SO4 and concentrated under reduced pressure. The solid obtained is purified by silica gel chromatography, eluted using a gradient of CH2Cl2/CH3OH/CH3COOH (94/4/2, v/v) to CH2Cl2/CH3OH/CH3COOH (94/5/1, v/v) then to CH2Cl2/CH3OH (94/6, v/v). Fractions containing the product are combined and washed with a saturated aqueous solution of NaHCO3 (3×100 ml). The organic phase is dried over anhydrous Na2SO4 and concentrated under reduced pressure to yield 2-methyl-7-(methyloxy)-8-quinolinol in the form of a white powder (480 mg; 2.54 mmol, yield=60%). NMR-1H (250 MHz, CDCl3) δ, ppm: 7.95 (d, 3J (H, H)=8.5 Hz, 1H); 7.26 (s, 2H); 7.15 (d, 3J (H, H)=8.5 Hz, 1H); 4.03 (s, 3H); 2.69 (s, 3H). NMR-13C (63 MHz, CDCl3) δ, ppm: 157.6 (Cq); 143.9 (Cq); 139.3 (Cq); 138.0 (Cq); 136.0 (CH); 121.7 (Cq); 120.6 (CH); 117.3 (CH); 115.2 (CH); 57.2 (CH3); 25.1 (CH3). MS (CID, NH3): m/z=190 (MH+). Analysis (%) for C11H11NO2: calculated C, 69.83. H, 5.86. N, 7.40. found C, 69.40. H, 5.85. N, 7.47.

reactant | CH3ONa | CO[Na]
reactant | CH3OH | 42.2 mmol, 8.04 ml | CO | CH4O
reactant | 7-bromo-2-methyl-8-hydroxyquinoline | 4.22 mmol, 1.00 g | BrC1=CC=C2C=CC(=NC2=C1O)C | C10H8BrNO
reactant | disodium EDTA dihydrate | 27 mmol, 10 g | C(CN(CC(=O)O)CC(=O)[O-])N(CC(=O)O)CC(=O)[O-].[Na+].[Na+]
reactant | NaHCO3 | 3 ml | C(=O)(O)[O-].[Na+]
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | acetic acid | 3 ml, pH=4-5 | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | 2-methyl-7-(methyloxy)-8-quinolinol | yield=60% | CC1=NC2=C(C(=CC=C2C=C1)OC)O | C11H11NO2
